*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/2.20e+00[uF]/4[V]
* Murata P/N :GRM155B30G225ME15
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B30G225ME15 Port1 Port2
C01 Port1 N01 1.42e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.60e-10
R03 N02 N03 8.49e-03
C04 N03 N04 7.40e-05
R04 N03 N04 1.57e+01
C05 N04 N05 1.09e-04
R05 N04 N05 1.53e+00
C06 N05 N06 1.28e-04
R06 N05 N06 1.77e-01
C07 N06 N07 1.18e-04
R07 N06 N07 2.81e-02
C08 N07 N08 7.16e-05
R08 N07 N08 5.96e-03
L09 N08 N09 3.63e-11
R09 N08 N09 2.20e-01
L10 N09 N10 3.01e-11
R10 N09 N10 3.12e-02
L11 N10 N11 1.51e-10
R11 N10 N11 2.25e-02
C12 N11 N12 3.65e-06
L12 N11 N12 3.09e-11
R12 N11 N12 3.53e-03
C13 N12 Port2 1.11e-11
L13 N12 Port2 2.14e-11
R13 N12 Port2 4.28e+00
.ENDS GRM155B30G225ME15
